US05196546
4-hydroxymethyl-4-methyl-1-(4-methoxyphenyl)pyrazolidinone [1.2 g] and dimethylcarbamoyl chloride [0.8 mL] were combined in 10 mL pyridine and 3 mL triethylamine. The resulting mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate (50 mL), washed with saturated ammonium chloride solution (30 mL), dried over MgSO4, and evaporated. The resulting crude material was taken up in 20 mL anhydrous methanol and sodium methoxide [0.4 g] was added. The mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with methylene chloride (50 mL), washed with saturated ammonium chloride solution (30 mL), dried over MgSO4, and evaporated. This crude oil was dissolved in 10 mL pyridine and 3 mL triethylamine. Dimethylcarbamoyl chloride [0.45 mL] was added and the resulting mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate (50 mL), washed with saturated ammonium chloride solution (30 mL), dried over MgSO4, and evaporated. Chromatography on silica gel gave 0.86 g (45%) of pure 3-(N,N-dimethylcarbamoyloxy)-4-(N,N-dimethylcarbamoyloxymethyl)-4-methyl-1-(4-methoxyphenyl)-2-pyrazoline as a light yellow oil. 1H NMR: 7.1 (4H, dd, j=7,2), 3.8 (4H, m), 3.2 (6H, s), 3.1 (6H, s), 2.0 (3H, s), 1.4 (3H, s).

reactant | 4-hydroxymethyl-4-methyl-1-(4-methoxyphenyl)pyrazolidinone | 1.2 g | OCC1(C(NN(C1)C1=CC=C(C=C1)OC)=O)C | C12H16N2O3
reactant | dimethylcarbamoyl chloride | 0.8 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-(N,N-dimethylcarbamoyloxy)-4-(N,N-dimethylcarbamoyloxymethyl)-4-methyl-1-(4-methoxyphenyl)-2-pyrazoline | 0.86 g, 45% | CN(C(=O)OC1=NN(CC1(C)COC(N(C)C)=O)C1=CC=C(C=C1)OC)C | C18H26N4O5
